US07115611B2
A solution of crude 25.8 g (77 mmol) of the above prepared [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester in 600 ml CH2Cl2 was treated at 0° C. with 198 ml TFA and stirred at RT for 30 min. The reaction was evaporated and treated with chilled aqueous saturated NaHCO3 solution/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried over sodium sulfate, and evaporated to give 16.2 g of crude product. Purification by flash chromatography on SiO2 with a gradient of n-heptane: AcOEt (9:1 to 4:1) yielded 12.7 g of (2-methyl-4-methylamino-phenoxy)-acetic acid methyl ester as an orange oil.

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C)=O | C16H23NO5
reactant | TFA | 198 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | (2-methyl-4-methylamino-phenoxy)-acetic acid methyl ester | 12.7 g | COC(COC1=C(C=C(C=C1)NC)C)=O | C11H15NO3
